US07638541B2
Step 2: 4-[3-(4-Methanesulfonyl-phenoxymethyl)-[1,2,4]oxadiazol-5-yl]-piperidine-1-carboxylic acid tert-butyl ester
To a solution of piperidine-1,4-dicarboxylic acid mono-tert-butyl ester (2.06 g, 9 mmol), NEt3 (1.2 g, 12 mmol) in toluene (150 mL) was added isobutylchloroformate (1.23 g, 9 mmol) at 0° C. The mixture was stirred at room temperature for 1.5 hours. N-hydroxy-2-(4-methanesulfonyl-phenoxy)-acetamidine (1.5 g, 6 mmol) was added to the mixture. The mixture was heated under reflux overnight, cooled and the mixture was washed successively with H2O and brine. After drying (Na2SO4), the solvent was removed. The residue was purified by flash chromatography on silica gel to afford the desired product. 1H NMR (CDCl3): δ 7.98 (2H, m), 7.14 (2H, m), 5.24 (2H, s), 4.2-4.05 (2H, m), 3.14 (1H, m), 3.03 (3H, s), 2.95 (2H, m), 2.12˜2.04 (2H, m), 1.80 (2H, m), 1.46 (9H, s).

reactant | piperidine-1,4-dicarboxylic acid mono-tert-butyl ester | 9 mmol, 2.06 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | NEt3 | 12 mmol, 1.2 g | CCN(CC)CC | C6H15N
reactant | isobutylchloroformate | 9 mmol, 1.23 g | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | N-hydroxy-2-(4-methanesulfonyl-phenoxy)-acetamidine | 6 mmol, 1.5 g | ONC(COC1=CC=C(C=C1)S(=O)(=O)C)=N | C9H12N2O4S
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[3-(4-Methanesulfonyl-phenoxymethyl)-[1,2,4]oxadiazol-5-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC(=NO1)COC1=CC=C(C=C1)S(=O)(=O)C | C20H27N3O6S
